US05155113
Preparation of 5-chloro-2,4-dibenzoyloxypyridine
A 1.76 ml quantity of benzoyl chloride was added to a suspension of 1.00 g of 5-chloro-4-hydroxy-2-pyridone in 30 ml of pyridine, and the mixture was stirred at room temperature for two hours. The solvent was distilled off and the residue was dissolved in a mixture solution of 60 ml of ethyl acetate and 30 ml of water. The ethyl acetate layer was separated, washed twice with 30 ml of water, dried on anhydrous sodium sulfate and concentrated. The concentrate was further washed with a small amount of ethanol, giving 2.11 g of the title compound in a yield of 86.8%.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-chloro-4-hydroxy-2-pyridone | 1.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-2,4-dibenzoyloxypyridine | 2.11 g, yield of 86.8% | ClC=1C(=CC(=NC1)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C19H12ClNO4
